US06747041B1
(4-1). Production of N-[4-(heptafluoro-2-propyl)-2-methylphenyl]pyridine-2,3-dicarboximide-1-oxide
In 25 ml of chloroform was dissolved 3.1 g of N-[4-(heptafluoro-2-propyl)-2-methylphenyl]pyridine-2,3-dicarboximide, and 5.0 g of m-chloroperbenzoic acid was added thereto at room temperature. After the resulting mixture was stirred at room temperature for 3 hours, a saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed successively with water, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography using ethyl acetate/n-hexane as an eluent, to obtain 820 mg (yield: 84%) of the desired compound.

reactant | N-[4-(heptafluoro-2-propyl)-2-methylphenyl]pyridine-2,3-dicarboximide | 3.1 g | FC(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)N1C(=O)C2=NC=CC=C2C1=O)C | C17H9F7N2O2
reactant | m-chloroperbenzoic acid | 5.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(heptafluoro-2-propyl)-2-methylphenyl]pyridine-2,3-dicarboximide-1-oxide | 820 mg, yield: 84% | FC(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)N1C(=O)C2=[N+](C=CC=C2C1=O)[O-])C | C17H9F7N2O3
